US07759373B2
Under argon atmosphere, a mixture of succinic acid monoethyl ester monochloride (2.0 g), tributyl(3-thienyl) tin (5.44 g) and bis (triphenylphosphine) palladium chloride (853 mg) in dioxane (40 ml) was refluxed for 3 hours. After cooling, to the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: hexane:ethyl acetate=6:1), and recrystallized from ethyl acetate-hexane to obtain ethyl 4-(3-thienyl)-4-oxobutyrate (1.4 g) as pale yellowish powder.

reactant | succinic acid monoethyl ester monochloride | 2.0 g | [Cl-].C(C)OC(CCC(=O)O)=O
reactant | tributyl(3-thienyl) tin | 5.44 g | C(CCC)[Sn](C1=CSC=C1)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | bis (triphenylphosphine) palladium chloride | 853 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 4-(3-thienyl)-4-oxobutyrate | 1.4 g | S1C=C(C=C1)C(CCC(=O)OCC)=O | C10H12O3S
